US07863271B2
(S)-Methyl 2-((S)-1-(benzyl(methyl)-amino)propan-2-ylamino)-propanoate (0.98 g, 3.7 mmol), concentrated HCl (mL) and 10% Pd on carbon (200 mg) were combined in ethanol (25 mL). The reaction mixture was shaken on a Parr apparatus under a hydrogen atmosphere (15 psi). After 16.75 h, the reaction mixture was filtered through Celite and the Celite pad was rinsed with CH3OH and CH2Cl2. The filtrate was concentrated under reduced pressure to give (S)-methyl 2-((S)-1-(methylamino)propan-2-ylamino)propanoate which was used directly in the next reaction. MS consistent.

reactant | (S)-Methyl 2-((S)-1-(benzyl(methyl)-amino)propan-2-ylamino)-propanoate | 3.7 mmol, 0.98 g | C(C1=CC=CC=C1)N(C[C@H](C)N[C@H](C(=O)OC)C)C | C15H24N2O2
reactant | HCl | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 200 mg | [Pd] | Pd
product | (S)-methyl 2-((S)-1-(methylamino)propan-2-ylamino)propanoate | CNC[C@H](C)N[C@H](C(=O)OC)C | C8H18N2O2
